US04012513
Methyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindol-3-ylacetate (1.7g.) in methanol (50ml.) containing 30% w/v methylamine solution (25ml.) was refluxed for 10 hours. The solvents were evaporated in vacuo and the residue crystallised from a 1:1 v/v mixture of benzene and cyclohexane to give 1-(7-chloroquinol-4-yl)-5-methoxy-N,2-dimethylindol-3-ylacetamide, m.p. 168°-169° C.

reactant | Methyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindol-3-ylacetate | 1.7g | ClC1=CC=C2C(=CC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OC)C | C22H19ClN2O3
reactant | methylamine | 25ml | CN | CH5N
solvent | methanol | 50ml | CO | CH4O
product | 1-(7-chloroquinol-4-yl)-5-methoxy-N,2-dimethylindol-3-ylacetamide | ClC1=CC=C2C(=CC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)NC)C | C22H20ClN3O2
